US04147780
The procedure described in Example 36B was repeated using DL-1-benzhydrylamino-1-(2-thienyl)-methanephosphonous acid instead of DL-1-benzhydrylamino-2-methylpropanephosphonous acid to give DL-1-amino-1-(thien-2-yl)-methanephosphonous acid, melting point 229°-230°.

reactant | 1-benzhydrylamino-1-(2-thienyl)-methanephosphonous acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(P(O)O)C=1SC=CC1 | C18H18NO2PS
reactant | 1-benzhydrylamino-2-methylpropanephosphonous acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(C(C)C)P(O)O | C17H22NO2P
product | 1-amino-1-(thien-2-yl)-methanephosphonous acid | NC(P(O)O)C=1SC=CC1 | C5H8NO2PS
